US08048884B2
Charge a reactor with 2,3-dichloropyrazine (73.6 g, 0.497 mol, 1.0 equiv), piperazine-1-carboxylic acid t-butyl ester (101.9 g, 0.547 mol, 1.1 equiv) and powdered potassium carbonate (164.8 g, 1.19 mol, 2.4 equiv). Add N,N-dimethylacetamide (1.1 L) and heat to 110° C. under nitrogen for 5 hr. Cool the reaction to room temperature, and add 4-fluorophenylboronic acid (83.4 g, 0.596 mol, 1.2 equiv), tetrakis(triphenyl-phosphine)palladium(0) (2.87 g, 2.5 mmol, 0.005 equiv) and water (442 mL). Heat the reaction to 110° C. under a nitrogen atmosphere for 5 hr. Cool the reaction to 60° C. and dilute with water (800 mL) and methyl t-butyl ether (1.0 L). Cool to room temperature and separate the resulting layers. Wash the organic layer with 200 mL of water, separate the layers, and concentrate to give 3-(4-fluorophenyl)-2-[4-(t-butyloxycarbonyl)piperazin-1-yl]pyrazine as a light yellow solid that is taken into the next step without further purification.

reactant | 2,3-dichloropyrazine | 0.497 mol, 73.6 g, 1.0 equiv | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | piperazine-1-carboxylic acid t-butyl ester | 0.547 mol, 101.9 g, 1.1 equiv | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | potassium carbonate | 1.19 mol, 164.8 g, 2.4 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluorophenylboronic acid | 0.596 mol, 83.4 g, 1.2 equiv | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
solvent | water | 800 mL | O | H2O
solvent | methyl t-butyl ether | 1.0 L | C(C)(C)(C)OC | C5H12O
solvent | water | 442 mL | O | H2O
solvent | N,N-dimethylacetamide | 1.1 L | CN(C(C)=O)C | C4H9NO
product | 3-(4-fluorophenyl)-2-[4-(t-butyloxycarbonyl)piperazin-1-yl]pyrazine | FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)C(=O)OC(C)(C)C | C19H23FN4O2
